US07414134B2
Step (i): Synthesis of (S)-2-Amino-2-(4-fluorophenyl)ethanol (44)
To a 150 mL flame dry round bottom flask was added LiAlH4 (1.14 g, 29.9 mmol) and 70 mL THF. The solution was cooled to 0° C. and (S)-2-amino-2-(4-fluorophenyl)acetic acid (2.53 g, 15.0 mmol) was added portionwise. Following the addition, the reaction mixture was heated to reflux under N2 for 20 h. The resulting mixture was then cooled to 0° C. and quenched slowly with 5% NaHCO3. The solvents were removed and the residue was suspended in EtOAc. After 2 h, the white precipitate was filtered and the filtrate concentrated to give the title compound. MS (m/z): 156.3 (M+H) (Calc'd for C8H10FNO: 155.17).

reactant | LiAlH4 | 29.9 mmol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-2-amino-2-(4-fluorophenyl)acetic acid | 15.0 mmol, 2.53 g | N[C@H](C(=O)O)C1=CC=C(C=C1)F | C8H8FNO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-2-(4-fluorophenyl)ethanol | N[C@H](CO)C1=CC=C(C=C1)F | C8H10FNO
